US06610694B1
0.326 g of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 3 ml of N,N-dimethylformamide; 0.044 g of 60% oily sodium hydride was added, followed by stirring at room temperature for 1 hour. 0.326 g of 6-chloro-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one was added, followed by stirring at room temperature for 14 hours. After ice water was added, the reaction mixture was extracted with ethyl acetate; the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (95:5). The desired fraction was collected and concentrated to yield 0.58 g of 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one as an oily substance. 0.58 g of the oily substance obtained was dissolved in 10 ml of acetone; 467 mg of p-toluenesulfonic acid hydrate was added, followed by refluxing under heating in an oil bath for 5 hours. After cooling, the acetone was mostly distilled off under reduced pressure; to the residue, an aqueous solution of sodium hydrogen carbonate was added; the reaction mixture was extracted with ethyl acetate-tetrahydrofuran (2:1); the extract was washed with saturated saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (85:15:1). The desired fraction was collected and concentrated; the crystal obtained was filtered, washed with ethyl acetate, and dried, to yield 0.137 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 0.326 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | 0.044 g | [H-].[Na+]
reactant | 6-chloro-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.326 g | ClC=1C=CC=2N(N1)C(N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C24H17ClN4O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(diphenylmethoxy)piperidino]propoxy]-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.58 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCOC=1C=CC=2N(N1)C(N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | C45H43N5O3
